US05254559
Preparation of 4,5-dibromo-1-[(methylthio)methyl]-2-(α,α,α-trifluoro-p-tolyl)pyrrole-3-carbonitrile
A solution of 4,5-dibromo-2-(α,α,α-trifluoro-p-tolyl)pyrrole-3-carbonitrile (0.56 g, 1.42 mmol) in dry tetrahydrofuran, under nitrogen, is treated portion-wise with potassium t-butoxide (0.21 g, 1.81 mmol), stirred at 25° C. for 3/4 hour, treated dropwise with chloromethyl methyl thioether (0.18 g, 1.81 mmol), stirred at room temperature for 16 hours, heated at 49°-60° C. until reaction is complete by thin layer chromatography. The reaction mixture is diluted with water and ether. The phases are separated and the organic layer is dried over MgSO4 and concentrated in vacuo to give a black oil residue. The residue is flash chromatographed (silica/ 100:100:1 ether:petroleum ether:ethyl acetate) to give the title product as a red solid, mp 140°-145° C., identified by H1NMR and mass spectral analyses.

reactant | 4,5-dibromo-2-(α,α,α-trifluoro-p-tolyl)pyrrole-3-carbonitrile | 1.42 mmol, 0.56 g | BrC=1C(=C(NC1Br)C1=CC=C(C=C1)C(F)(F)F)C#N | C12H5Br2F3N2
reactant | potassium t-butoxide | 1.81 mmol, 0.21 g | CC(C)([O-])C.[K+]
reactant | chloromethyl methyl thioether | 1.81 mmol, 0.18 g | CSCCl | C2H5ClS
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 4,5-dibromo-1-[(methylthio)methyl]-2-(α,α,α-trifluoro-p-tolyl)pyrrole-3-carbonitrile | BrC=1C(=C(N(C1Br)CSC)C1=CC=C(C=C1)C(F)(F)F)C#N | C14H9Br2F3N2S
